Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lower extremity edema  
 
Major Surgical or Invasive Procedure:
Peripherally inserted central venous catheter
 
History of Present Illness:
___ y.o female with pmhx. of polycystic disease s/p bilateral 
native nephrectomies in ___ and then deceased donor renal 
transplant in ___ on Cellcept, Cyclosporine, and Prednisone, 
afib on ASA, type 2 DM, HTN had complicated recent hospital 
course (___) with recurrent pneumonia, exudative 
pleural effusion and infected hepatic cyst requiring ___ drainage 
c/b septic physiology requiring high volume rescuscitation and 
vasopressors, complicated by hyperkalemia and worsening renal 
function, who presented today to ___ clinic for 
second opinion regarding her increasing creatinine. At 
___ clinic she was noted to have significant lower 
extremity edema and pulse of 120 and was directly admitted to 
___. 
.
Of note she was discharged from her last admission at ___ on 
___ and has completed 1 month course of Cipro and Flagyl 
for infected hepatic cyst. She had significant volume overload 
after her large volume resuscitation for sepsis and ultimately 
discharged on lasix 20mg daily howvever this was stopped on 
___. In addition her ___ to be held. She did 
recieve an abdominal CT scan with IV contrast on ___ for 
reevaluation of her hepatic abscess which revealed intervel 
decerase in the size of tghe fluid collection in the right 
hepatic lobe. On ___ her BUN/creat was ___ which was 
elevated from baseline (___). 

On ___ she was admitted again to ___ for hyperkalemia and 
acute renal injury. Her potassium was 6.4 and BUN/Creat ___. 
 She was discharged on ___ with her Lasix continuing to be 
held, her Cipro/flagyl continued for hepatic cyst for 10 more 
days ___ drain removed during this admission) and 
immunosuppressives continued.   
.  
Currently the patient denies any pain. She has been experiencing 
orthopnea and lower extremity edema for ___ weeks. She usually 
weighs approxiamately 120Ibs and now weighs 140Ibs. She denies 
any recent CT studies. She denies any chest pain,cough, fevers, 
chills, palpitations, dizziness, syncope, lower extremity pain 
or dyspnea on exertion. She is ambulatory dependent on a walker 
at baseline. She does endorse decreased urinary output in the 
last 3 weeks but denies any hematuria, dysuria, back/abdominal 
pain, nausea, vomiting, decreased appeptite or confusion.   
.  
.  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria. 
 
Past Medical History:
ESRD due to ___ s/p deceased donor renal transplant ___ 
Bilateral naitive nephrectomies in ___ 
Hx of recieving HD via LUE AVF for ___ year prior to transplant 
HTN 
DMt type 2 
Hyperlipidemia 
Recurrent UTI 
Gallstone pancreatitis s/p sphincterotomy 
 
Social History:
___
Family History:
Older sister s/p kidney trasnplant 
Daughter also has ___  
 
Physical Exam:
ADMISSION EXAM
GENERAL: Well appearing ___ yo M/F who appears stated age. 
Comfortable, appropriate and in good humor, oriented X 3   
HEENT: Sclera icteric. PERRL, EOMI.  
NECK: Supple with 10cm JVP  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, S1 S2 clear and of good quality without murmurs, rubs 
or gallops. No S3 or S4 appreciated.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use, moving air well and 
symmetrically. CTAB, insp b/l crackles, no wheezes or rhonchi.  
ABDOMEN: NonDistended and Soft, ___ to palpation. 
Dullness to percussion over dependent areas but tympanic 
anteriorly. No HSM or tenderness.  
EXTREMITIES: Warm and well perfused, no clubbing or cyanosis. 2+ 
___ bilaterally to knees. 
 
Pertinent Results:
ADMISSION LABS

___ 07:15PM BLOOD ___ 
___ Plt ___
___ 07:15PM BLOOD ___ 
___
___ 07:15PM BLOOD ___ ___
___ 07:15PM BLOOD ___ 
___
___ 07:15PM BLOOD ___ LD(LDH)-299* ___ 
___
___ 01:10PM BLOOD ___
___ 04:52AM BLOOD ___
___ 04:52AM BLOOD ___
.
DISCHARGE LABS
___ 05:12AM BLOOD ___ 
___ Plt ___
___ 05:12AM BLOOD ___ ___
___ 05:12AM BLOOD ___ 
___
___ 05:12AM BLOOD ___
.
URINE STUDIES

___ 09:49PM URINE ___ Sp ___
___ 09:49PM URINE ___ 
___ 
___ 09:49PM URINE ___ 
___
___ 09:49PM URINE ___
___ 09:49PM URINE ___  
___ 09:49PM URINE ___ 
___
.
MICROBIOLOGY

URINE CULTURE (Final ___: 
      YEAST.    ___ ORGANISMS/ML.. 
.

 CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference ___. 
.
___ 4:31 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference ___. 
.
CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by PCR. 
      Detection Range: 600 - 100,000 copies/ml. 
      FOR RESEARCH USE ONLY. NOT FOR USE IN DIAGNOSTIC 
PROCEDURES. 
      This test has been validated by the Microbiology 
laboratory at ___. 
.
PARVOVIRUS B19 DNA, QL REAL   Not Detected        Not Detected
TIME PCR 
.
BK Virus DNA, Quantitative ___ PCR
  BK Virus, QN PCR     No DNA Detected                       
<500 copies/mL
STUDIES 
EKG ___
Atrial fibrillation with a rapid ventricular response. 
___ wave changes. Low voltage in the limb leads. 
No previous tracing available for comparison.
.
TTE ___
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. Overall left ventricular 
systolic function is severely depressed (LVEF= ___. 
[Intrinsic left ventricular systolic function is likely more 
depressed given the severity of valvular regurgitation.] Right 
ventricular chamber size is normal. with mild global free wall 
hypokinesis. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Trace aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. 
Moderate to severe (3+) mitral regurgitation is seen. Moderate 
to severe [3+] tricuspid regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. [In the setting 
of at least moderate to severe tricuspid regurgitation, the 
estimated pulmonary artery systolic pressure may be 
underestimated due to a very high right atrial pressure.] 
Significant pulmonic regurgitation is seen. There is a small 
pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad.

IMPRESSION: Severely depressed LV systolic dysfunction with 
anterior/anteroseptal akinesis and hypokinesis of all segments 
bar basal inferior/inferolateral segments. Dilated and depressed 
right ventricle. Moderate to severe mitral regurgitation likely 
due to leaflet tethering. Moderate to severe tricuspid 
regurgitation. At least moderate pulmonary hypertension.
.
Chest Xray ___
Moderate bilateral pleural effusions layer dependently. Cardiac 
silhouette
has a peculiar shape, and a larger than expected component to 
the right of
midline. Whether this is due to cardiomegaly or pericardial 
effusion is
indeterminate. There is no particular distention of either 
pulmonary or
mediastinal vasculature to suggest one or the other. Bibasilar 
atelectasis is relatively mild, and there is no pulmonary edema. 
Aortic contour is normal.
.
___
When compared to the study of ___, there is continued 
enlargement of the
cardiac silhouette with evidence of elevated pulmonary venous 
pressure. The
right heart border is now sharply seen, as is the hemidiaphragm, 
consistent
with substantial decrease in pleural effusion. However, this 
could represent a more erect position of the patient rather than 
significant fluid decrease.
 
There is opacification at the left base consistent with a small 
effusion on
this side.
 
Brief Hospital Course:
___ y.o female with pmhx. of polycystic disease s/p bilateral 
native nephrectomies in ___ and then deceased donor renal 
transplant in ___ on Cellcept, Cyclosporine, and Prednisone, 
afib on ASA, type 2 DM, HTN had complicated recent hospital 
course (___) with recurrent pneumonia, exudative 
pleural effusion and infected hepatic cyst requiring ___ drainage 
c/b septic physiology requiring high volume resuscitation and 
vasopressors, complicated by hyperkalemia and worsening renal 
function, who presented to ___ clinic for second 
opinion regarding her increasing creatinine being admitted for 
volume overload and tachycardia. 
.
#Acute systolic heart failure- Patient was admitted with 
significant lower extremity edema, elevated JVD and pleural 
effusions. A TTE showed a EF of ___ anterior/anteroseptal 
akinesis and hypokinesis as well as moderate to severe mitral 
regurgitation.  She was diuresed with bolus doses of IV lasix 
(40 mg BID) approximately ___ L per day for 4 days.  Her weight 
on admission was 64.8 kg and 59 kg on discharge. She was 
transitioned to oral lasix 40 mg BID.  Cardiology was consulted 
a felt presentation was not complete consistent with ischemic 
cardiomyopathy and possibly reflective of a tachymyopathy.  She 
will however need further imaging with a MIBI or possible 
catheterization as an outpatient. She will also need a repeat 
TTE to evaluate valve and ventricular function now that she is 
no longer volume overloaded. She would likely also benefit from 
initiation as an ACEi as an outpatient when renal function 
improves. 
.
___ creatinine was 1.8 on admission from a baseline 
of 1.2. This was felt to likely reflect poor cardiac forward 
flow leading to hypoperfusion. Patient was diuresed as above 
with improvement in her creatinine to 1.6. Patient will 
___ with transplant nephrology. 
.
#Hepatic Cyst- Patient is status post drainage of cyst and drain 
removal ___. Per Infectious Disease at ___ patient was 
supposed to take 10 more days of Ciprofloxacin and Flagyl. 
However these antibiotics were discontinued at the time of 
admission as the patient had no signs of infection.  She 
remained afebrile with no signs of infection throughout the 
remainder of her hospital course.  
.
#Atrial Fibrilliation- Patient was noted to be in atrial 
fibrillation with rates as high as the 150s. Patient was 
asymptomatic without chest pain or palpitations. TSH was within 
normal limits.  In consultation with cardiology she was started 
on metoprolol tartrate which was titrated upward to 150 mg twice 
a day. This was converted to metoprolol succinate 150 mg BID. 
Rates remained elevated to the ___ and she was started on 
diltiazem with improved rate control.  The patient was only on 
aspirin on admission.  However she was initiated on warfarin at 
the time of discharge. The decision was made not to undertake 
bridging therapy. Patient will ___ in the ___ 
___ clinic for INR monitoring and warfarin dose 
adjustment.  
.  
#Kidney Transplant- Patient was continued on her home 
immunosuppresives, including Cyclosporine, Cell Cept and 
steroids. His BK virus PCR was negative.  Cyclosporine levels 
were appropriate.   
.  
#Thrombocytopenia- Patients platelets were noted to decrease 
from admission platelet count of 140's to the 80's with recovery 
to the 100s. In the differential is HIT and splenic 
sequestration. Heme onc consult has recommended HIT ab and 
various viral PCR's. The HIT antibody was negative. CMV viral 
load was negative. Parvovirus titers were negative and EBV 
titers were pending at the time of discharge.  Reticulocyte 
count was appropriate. Vitamin B12, folate and iron levels were 
within normal limits. Infectious ___ including blood and 
urine cultures were negative. There was no evidence of bleeding. 
The patient will need close monitoring of her platelet count as 
an outpatient. Patient will also need a US to rule out 
splenomegaly.  
.
#DM- Patient was maintained on an insulin sliding scale. Oral 
hypoglycemics were restarted on discharge.
.
TRANSITIONAL ISSUES
- Patient will ___ with transplant nephrology, cardiology 
and with a new ___ PCP
- ___ INR monitoring and dose adjustment was transitioned 
to ___ clinic
- EBV titers were pending at the time of discharge
- Patient will need an US to evaluate for splenomegaly, repeat 
TTE and stress MIBI 
- Patient will need to have her creatinine and platelet count 
monitoring
- Patient was full code throughout this admission

 
Medications on Admission:
Metoprolol Tartrate 12.5 mg TID 
Glipizide 5mg Qd 
Prednisione 5mg Qdaily 
Lorazepam 0.25mg Q12 H PRN agitation 
Cyclosporine 50mg BID 
Mycophenolate Mofetil 500mg BID 
Ciprofloxacin 500mg BID 
Flagyl 500mg TID 
MVI 
 
Discharge Medications:
1. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for insomnia/anxiety .
Disp:*20 Tablet(s)* Refills:*0*
3. metoprolol succinate 50 mg Tablet Extended Release 24 hr Sig: 
Three (3) Tablet Extended Release 24 hr PO BID (2 times a day).
Disp:*180 Tablet Extended Release 24 hr(s)* Refills:*0*
4. mycophenolate mofetil 250 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day).  
5. multivitamin     Capsule Sig: One (1) Capsule PO once a day.  

6. Coumadin 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
7. Diltzac ER 120 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO once a day.
Disp:*30 Capsule, Extended Release(s)* Refills:*2*
8. cyclosporine modified 25 mg Capsule Sig: Two (2) Capsule PO 
Q12H (every 12 hours).  
9. furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
10. Outpatient Lab Work
Please have your labs drawn on ___ and have the 
results faxed to ___. Please have chemistry panel, CBC, 
cyclosporine level and INR drawn.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
PRIMARY DIAGNOSIS
Acute on chronic systolic congestive heart failure
Acute on chronic renal failure
Atrial Fibrillation with rapid ventricular response
.
SECONDARY DIAGNOSIS
Status post kidney transplant
Hyperlipidemia
Diabetes
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure participating in your care while you were 
admitted to ___. As you know 
you were admitted because you were having increased swelling in 
your legs and difficulty breathing.  You had an EKG which showed 
your heart was in an abnormal rhythm and going fast. You were 
given medications to improve your heart rate.  You also had an 
ultrasound of your heart called an ECHO which showed your heart 
was not pumping well and one of your heart valves was leaky.  
You were given medication to remove extra fluid. You will need a 
repeat echo as an outpatient. 

We Made the following changes to your medications
1. START Metoprolol Succinate 150 mg twice a day
2. START Diltazem 120 mg once a day 
3. STOP Ciprofloxacin
4. STOP Flagyl 
5. Start Coumadin a blood thinner
6. We decreased your Cell Cept to 250mg twice a day 
7. STOP Glipizide. 
.
Please continue to take the rest of your home medications as you 
were before coming to the hospital. 
.
You will be followed by the ___ clinic at ___ 
associates at ___. Please contact ___ to 
establish when you need lab draws for monitoring of your INR  
(measurement of blood thickness).  
.
Please have your labs drawn on ___ and have the 
results faxed to ___ which is the ___. 
Please have chemistry panel, CBC, cyclosporine level and INR 
drawn.

 
Followup Instructions:
___